US09108966B2
BCl3 (1 M in CH2Cl2, 9.0 mL, 9.0 mmol) was added dropwise to a solution of (2S,5R)-6-(benzyloxy)-2-(1,3,4-thiadiazol-2-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one (560 mg, 1.8 mmol) in dry CH2Cl2 (20 mL) at −78° C. The mixture was stirred under a N2 atmosphere at 0° C. for 6 hrs., then, MeOH (9 mL) was slowly added dropwise at −78° C. The solvents were evaporated under vacuum at 0° C. to give (2S,5R)-6-hydroxy-2-(1,3,4-thiadiazol-2-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one (329 mg, 81%) as a yellow solid, which was used directly in the next step. ESI-MS (EI−, m/z): 227.1 [M+H]−.

reactant | BCl3 | 9.0 mmol, 1 M, 9.0 mL | B(Cl)(Cl)Cl | BCl3
reactant | (2S,5R)-6-(benzyloxy)-2-(1,3,4-thiadiazol-2-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one | 1.8 mmol, 560 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C=2SC=NN2 | C15H16N4O2S
reactant | MeOH | 9 mL | CO | CH4O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (2S,5R)-6-hydroxy-2-(1,3,4-thiadiazol-2-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one | 329 mg, 81% | ON1[C@@H]2CC[C@H](N(C1=O)C2)C=2SC=NN2 | C8H10N4O2S
